*Inversor

simulator lang=spice
.param cap=1.9f
.param slew=250p

.include '45nm_LP.pm'
.include 'INV.spi'

Vd vsupply 0 1
Va a 0 1 PWL 0 0 1n 0 '(slew*(10/8)+1n)' 1

R1 a c 0.Meg
X1 c out vsupply 0 INV
Cload out 0 'cap'

.TRAN 100p 10n
.print V(out)

.option rawfmt="psfbin"

