*Lab05c

simulator lang=spice

.include '45nm_LP.pm'
.include 'INV.spi'
.include 'NAND2.spi'
.include 'OR2.spi'
.include 'XNOR2.spi'

.param cap=7.6f
.param slew=250p

Vdd vsupply 0 1
V1 in 0 1 PWL 0 1 1n 1 '(slew*(10/8)+1n)' 0 3n 0 '(slew*(10/8)+3n)' 1
V2 b 0 1
V3 c 0 1
V4 d 0 0

X1 in out1 vsupply 0 INV
X2 out1 b out2 vsupply 0 NAND
X3 out2 c out3 vsupply 0 XNOR
X4 out3 d out vsupply 0 OR

Cload out 0 'cap'

.TRAN 100p 10n
.print V(out)

.option rawfmt="psfbin"


