*OR

simulator lang=spice
.param cap=0.2f
.param slew=41p

.include 'OR2.spi'

Vd vsupply 0 1
Va a 0 1 PWL 0 0 1n 0 '(slew*(10/8)+1n)' 1
Vb b 0 0 


X1 a b out vsupply 0 OR
Cload out 0 'cap'

.TRAN 100p 10n
.print V(out)

.option rawfmt="psfbin"
