*Inversor

simulator lang=spice
.param cap=0.2f
.param slew=41p

.include '45nm_LP.pm'
.include 'INV.spi'

Vd vsupply 0 1
Va a 0 1 PWL 0 1 1n 1 '(slew*(10/8)+1n)' 0

X1 a out vsupply 0 INV
Cload out 0 'cap'

.TRAN 100p 10n
.print V(out)

.option rawfmt="psfbin"

