*Threshold

simulator lang=spice

.include '45nm_LP.pm'

Vg Gate 0 'vdd'
Vs Source 0 0
Vd Drain 0 1
Vb Bulk 0 0

Mi Drain Gate Source Bulk NMOS_VTL W=0.630000U L=0.050000U

.param vdd=1 
.DC Vdd start=0.0 stop=1 step=0.01 

.option rawfmt="psfbin"
